US05589477
(1) Preparation of 4-methoxybenzimidic acid methylester hydrochloride
25 g of anisonitril was dissolved in 250 ml of methanol. After saturation with hydrogen chloride gas under cooling in ice-water and stirring, the solution was stirred at room temperature for 15 hours. Then, methanol was evaporated in vacuo. Ether was added to the residue and the crystals were filtered off and dried. Whereby 35.9 g of the desired substance was obtained as white crystals. Melting point is 111° to 112° C. (Decomposition).

reactant | anisonitril | 25 g | C(C1=CC=C(C=C1)OC)#N | C8H7NO
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 250 ml | CO | CH4O
product | 4-methoxybenzimidic acid methylester hydrochloride | Cl.COC(C1=CC=C(C=C1)OC)=N | InChI=1S/C9H11NO2.ClH/c1-11-8-5-3-7(4-6-8)9(10)12-2;/h3-6,10H,1-2H3;1H
